US05962458
A solution of 7-benzyloxy-4-chloro-6-methoxyquinazoline hydrochloride (1.34 g, 4 mmol), (prepared as described for the starting material in Example 1), and 4-chloro-2-fluoroaniline (444 μ, 4 mmol) in isopropanol (40 ml) was refluxed for 1.5 hours. After cooling, the precipitate was collected by filtration, washed with isopropanol then ether and dried under vacuum to give 7-benzyloxy-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline hydrochloride (1.13 g, 64%).

reactant | 7-benzyloxy-4-chloro-6-methoxyquinazoline hydrochloride | 4 mmol, 1.34 g | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)Cl)OC
reactant | 4-chloro-2-fluoroaniline | 4 mmol | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
solvent | isopropanol | 40 ml | C(C)(C)O | C3H8O
product | 7-benzyloxy-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline hydrochloride | 1.13 g, 64% | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)OC | InChI=1S/C22H17ClFN3O2.ClH/c1-28-20-10-16-19(11-21(20)29-12-14-5-3-2-4-6-14)25-13-26-22(16)27-18-8-7-15(23)9-17(18)24;/h2-11,13H,12H2,1H3,(H,25,26,27);1H
